US03963706
b. 2-Phenylamino-N-(2-chloro-4-sulphamoylphenyl)-acetamide
2-Chloro-N-(2-chloro-4-sulphamoylphenyl)-acetamide (28.3g 0.1 mole) and aniline (18.6g, 0.2 mole) were heated together for 30 min. on a water bath (90°). The mixture was worked up as in Example 1(b) to yield 20.8 g m.p. 185°-186°

reactant | 2-Chloro-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 0.1 mole, 28.3g | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
reactant | aniline | 0.2 mole, 18.6g | NC1=CC=CC=C1 | C6H7N
product | 2-Phenylamino-N-(2-chloro-4-sulphamoylphenyl)-acetamide | C1(=CC=CC=C1)NCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C14H14ClN3O3S
